US08183289B2
To a solution of tert-butyl 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetate 0.120 g) in 2 ml of dichloromethane was added 2 ml of TFA and the reaction was stirred at ambient temperature. After 1 hour the reaction was concentrated and dried under vacuum to give 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetic acid (0.100 g). MS−355.3 [M−CO2H].

reactant | tert-butyl 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetate | 0.120 g | C(#N)C=1C=C(C=CC1OC1=CC=C(C=C1)C(NCCC1=CC=CC=C1)=O)CC(=O)OC(C)(C)C | C28H28N2O4
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetic acid | 0.100 g | C(#N)C=1C=C(C=CC1OC1=CC=C(C=C1)C(NCCC1=CC=CC=C1)=O)CC(=O)O | C24H20N2O4
